US07655690B2
468 mg (9.8 mMol) of 50% sodium hydride in oil were added at 0° C. to a solution of 1.0 g (3.9 mMol) of 3-(1-methyl-1,2,3,6-tetrahydropyridine-4-yl)-5-nitro-1H-indole in 50 ml of anhydrous dimethylformamide, and the mixture was left to stir for 30 minutes. Then 2.14 g of cyclohexanesulfonyl chloride were added, and the stirring continued for 3 hours at room temperature. Water was added and evaporated to dryness. The resulting crude was treated with sodium bicarbonate and was extracted with chloroform. The organic phase was dried with anhydrous sodium sulfate and evaporated to dryness; the resulting solid was purified by chromatography, obtaining 900 mg (57%) of 1-cyclohexanesulfonyl-3-(1-methyl-1,2,3,6-tetrahydropyridine-4-yl)-5-nitro-1H-indole as a yellow solid.

reactant | sodium hydride | 9.8 mMol, 468 mg | [H-].[Na+]
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridine-4-yl)-5-nitro-1H-indole | 3.9 mMol, 1.0 g | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C14H15N3O2
reactant | cyclohexanesulfonyl chloride | 2.14 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | Water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-cyclohexanesulfonyl-3-(1-methyl-1,2,3,6-tetrahydropyridine-4-yl)-5-nitro-1H-indole | 900 mg, 57% | C1(CCCCC1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])C=1CCN(CC1)C | C20H25N3O4S
